US04243672
cis-/trans-2-(2-Cyclopropylvinyl)pyrrole (3.0 g., 0.023 mole) was added to a stirred solution of glyoxylic acid hydrate (2.1 g., 0.023 mole) in 0.880 (sp. gr.) ammonia solution (15 ml.) and the reaction mixture heated at 60° for 2.5 hours, then allowed to cool. The pH was adjusted to 5-6 with concentrated hydrochloric acid, and the mixture was then filtered. The resulting solid was washed with water, acetone and diethyl ether, and dried under vacuum to provide DL-2-[5-(2-cyclopropylvinyl)-2-pyrrolyl]glycine as a pink solid (1.2 g.), M.P. 275°.

reactant | trans-2-(2-Cyclopropylvinyl)pyrrole | 0.023 mole, 3.0 g | C1(CC1)/C=C/C=1NC=CC1 | C9H11N
reactant | glyoxylic acid hydrate | 0.023 mole, 2.1 g | O.C(C=O)(=O)O
reactant | ammonia | 15 ml | N | H3N
reactant | hydrochloric acid | Cl | ClH
product | 2-[5-(2-cyclopropylvinyl)-2-pyrrolyl]glycine | C1(CC1)C=CC1=CC=C(N1)C(N)C(=O)O | C11H14N2O2
